US05900475
Preparation of (4-chlorobutyl)dioctylmethylammonium bromide
To a 500 mL, round-bottomed flask equipped with air condensers and magnetic stirring was charged N-methyldioctylamine (201.83 grams, 0.790 moles), 1-bromo-4-chlorobutane (135.517 grams, 0.790 moles) and methanol (250 mL). The reaction was maintained at 68° C. for 48 hours. The reaction was cooled to room temperature. Solvent was removed by rotary evaporation until a thick oil remained. Solvent removal was continued under high vacuum at 50° C., yielding 333.53 grams of a thick brown oil.

reactant | N-methyldioctylamine | 0.790 moles, 201.83 grams | CN(CCCCCCCC)CCCCCCCC | C17H37N
reactant | 1-bromo-4-chlorobutane | 0.790 moles, 135.517 grams | BrCCCCCl | C4H8BrCl
solvent | methanol | 250 mL | CO | CH4O
product | (4-chlorobutyl)dioctylmethylammonium bromide | 333.53 grams | [Br-].ClCCCC[N+](C)(CCCCCCCC)CCCCCCCC | InChI=1S/C21H45ClN.BrH/c1-4-6-8-10-12-15-19-23(3,21-17-14-18-22)20-16-13-11-9-7-5-2;/h4-21H2,1-3H3;1H/q+1;/p-1
